US06448268B1
(3,4-Dichlorophenyl){4-fluoro-4-[(2-pyrid-2-ylethylamino)methyl]-1-piperidyl}methanone (1; x=Cl)
This compound is obtained in the form of the oxalate according to the same procedure as that used to prepare (3-chloro-4-fluorophenyl){4-fluoro-4-[(2-pyrid-2-ylethylamino)methyl]-1-piperidyl}methanone, but replacing the 1-(3-chloro-4-fluorobenzoyl)-4-fluoropiperidine-4-carbaldehyde with 1-(3,4-dichlorobenzoyl)-4-fluoropiperidine-4-carbaldehyde.

reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | (3-chloro-4-fluorophenyl){4-fluoro-4-[(2-pyrid-2-ylethylamino)methyl]-1-piperidyl}methanone | ClC=1C=C(C=CC1F)C(=O)N1CCC(CC1)(CNCCC1=NC=CC=C1)F | C20H22ClF2N3O
reactant | 1-(3,4-dichlorobenzoyl)-4-fluoropiperidine-4-carbaldehyde | ClC=1C=C(C(=O)N2CCC(CC2)(C=O)F)C=CC1Cl | C13H12Cl2FNO2
product | (3,4-Dichlorophenyl){4-fluoro-4-[(2-pyrid-2-ylethylamino)methyl]-1-piperidyl}methanone | ClC=1C=C(C=CC1Cl)C(=O)N1CCC(CC1)(CNCCC1=NC=CC=C1)F | C20H22Cl2FN3O
